US07247734B2
To a mixture of 3-(2,4-bis-benzyloxy-5-chloro-phenyl)-4-iodo-1H-pyrazole (4.46 g, 8.63 mmol) and caesium carbonate (8.43 g, 25.88 mmol) in DMF (50 ml) was added 2-(trimethylsilyl)ethoxymethyl chloride (2.29 ml, 12.94 mmol). The mixture was stirred at room temperature overnight before being partitioned between water and DCM. The organics were then washed with brine and water and concentrated in vacuo to give a yellow oil which was purified by column chromatography using hexanes and ethyl acetate as eluent, yielding 3-(2,4-bis-benzyloxy-5-chloro-phenyl)-4-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazole as a clear colourless oil (4.44 g, 80%).

reactant | 3-(2,4-bis-benzyloxy-5-chloro-phenyl)-4-iodo-1H-pyrazole | 8.63 mmol, 4.46 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C1=NNC=C1I | C23H18ClIN2O2
reactant | caesium carbonate | 25.88 mmol, 8.43 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 12.94 mmol, 2.29 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-(2,4-bis-benzyloxy-5-chloro-phenyl)-4-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazole | 4.44 g, 80% | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C1=NN(C=C1I)COCC[Si](C)(C)C | C29H32ClIN2O3Si
